US04408052
2,3-Dimethoxy-6-methyl-1,4-benzoquinon-5-yl-n-nonyl isocyanate
In 10 ml of toluene is dissolved 1.4 g of 2,3-dimethoxy-6-methyl-1,4-benzoquinon-5-yl-n-nonanoic acid, and 1.09 g of DPPA and 0.62 ml of triethylamine are added. The mixture is stirred at room temperature for 3 hours. The reaction mixture is promptly extracted with ether and ice-water. The ether layer is taken, dehydrated and concentrated to 5 ml. The product is heated under reflux for 3 hours to give a toluene solution of the contemplated product isocyanate.

reactant | 2,3-dimethoxy-6-methyl-1,4-benzoquinon-5-yl-n-nonanoic acid | 1.4 g | COC=1C(C(=C(C(C1OC)=O)C(C(=O)O)CCCCCCC)C)=O | C18H26O6
reactant | DPPA | 1.09 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dimethoxy-6-methyl-1,4-benzoquinon-5-yl-n-nonyl isocyanate | COC=1C(C(=C(C(C1OC)=O)CCCCCCCCCN=C=O)C)=O | C19H27NO5
